US09145354B2
To a suspension of (1R)-1-(4-chloro-2-fluorophenyl)-2-cyclopropylethan-1-amine hydrochloride (500 mg, 2.0 mmol) in DCM (15 mL) was added triethylamine (0.84 mL, 6 mmol, 3 eq.) followed by Boc anhydride (458 mg, 2.1 mmol, 1.05 eq.) and the reaction mixture was stirred for 4 hours. Further DCM (40 mL) was added and the solution was washed with water (20 mL), 1M HCl (20 mL) and then water (20 mL) followed by brine (20 mL) before the organic layer was dried (MgSO4), filtered and concentrated to give [(R)-1-(4-chloro-2-fluoro-phenyl)-2-cyclopropyl-ethyl]-carbamic acid tert-butyl ester (590 mg, 1.9 mmol, 94%) as a white solid. [M−H]− 312

reactant | (1R)-1-(4-chloro-2-fluorophenyl)-2-cyclopropylethan-1-amine hydrochloride | 2.0 mmol, 500 mg | Cl.ClC1=CC(=C(C=C1)[C@@H](CC1CC1)N)F
reactant | triethylamine | 6 mmol, 0.84 mL, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | Boc anhydride | 2.1 mmol, 458 mg, 1.05 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | [(R)-1-(4-chloro-2-fluoro-phenyl)-2-cyclopropyl-ethyl]-carbamic acid tert-butyl ester | 1.9 mmol, 590 mg, 94% | C(C)(C)(C)OC(N[C@H](CC1CC1)C1=C(C=C(C=C1)Cl)F)=O | C16H21ClFNO2
